US07338959B2
B. N-isopropyl-1-methyl-5-nitro-1H-benzimidazol-2-amine
To a solution of N1-methyl-4-nitro-benzene-1,2-diamine (2.0 g, 12.0 mmol) in pyridine (20 ml) was added isopropyl isothiocyanate (1.41 g, 13.2 mmol) and the mixture was heated to 90° C. After 1 h, 1-cyclohexyl-3-(2-morpholinoethyl)carbodiimide metho-p-toluenesulfonate (6.6 g, 15.6 mmol) was added and the mixture was heated at 90° C. After 16 h, the reaction mixture was cooled to rt, filtered and concentrated to a red residue. This was dissolved in EtOAc and washed with water (4×125 ml). The organic layer was dried over MgSO4 and concentrated to an orange solid. MeOH was added, and the solid was filtered and dried to give the title compound as an orange solid (2.4 g, 85%). 1H NMR (300 MHz, d6-DMSO) δ7.88 (dd, J=8.7 and 2.4 Hz), 7.30 (d, J=8.7 Hz, 1H), 6.89 (d, J=7.5 Hz, 1H), 4.08 (m, 1H), 3.56 (s, 3), 1.25 (d, J=6.6 Hz, 6H). MS (ESI) m/z=235 [M+H]+.

reactant | N1-methyl-4-nitro-benzene-1,2-diamine | 12.0 mmol, 2.0 g | CNC=1C(=CC(=CC1)[N+](=O)[O-])N | C7H9N3O2
reactant | isopropyl isothiocyanate | 13.2 mmol, 1.41 g | C(C)(C)N=C=S | C4H7NS
reactant | 1-cyclohexyl-3-(2-morpholinoethyl)carbodiimide metho-p-toluenesulfonate | 15.6 mmol, 6.6 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C[N+]1(CCOCC1)CCN=C=NC2CCCCC2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | N-isopropyl-1-methyl-5-nitro-1H-benzimidazol-2-amine | 2.4 g, 85% | C(C)(C)NC1=NC2=C(N1C)C=CC(=C2)[N+](=O)[O-] | C11H14N4O2
